**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible PLCC LED 
* Matchcode:          WL-SMTW SMT Mono-color TOP LED  Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3528_150141AS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8166
+ RS=4.4501
+ IKF=10.719
+ CJO=0.000000000043186
+ M=0.1001
+ VJ=9.99
.ends
******

.subckt  3528_150141BS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4694E-12
+ N=4.9950
+ RS=8.3467
+ IKF=999
+ CJO=4.9689E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3528_150141RS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4366E-9
+ N=4.9950
+ RS=1.8496
+ IKF=999
+ CJO=6.7087E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3528_150141VS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8457
+ RS=1.1328
+ IKF=4.8875
+ CJO=0.000000000088401
+ M=0.1001
+ VJ=9.99
.ends
*****
.subckt  3528_150141YS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.2769E-9
+ N=4.9950
+ RS=.66519
+ IKF=999
+ CJO=4.0174E-9
+ M=.1001
+ VJ=9.9900
.ends
******

.subckt  2214_150224AS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1.5163E-9
+ N=4.9950
+ RS=.84121
+ IKF=999
+ CJO=7.0732E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  2214_150224BS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0044E-12
+ N=4.9950
+ RS=5.2026
+ IKF=999
+ CJO=7.3519E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  2214_150224GS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=59.124E-12
+ N=4.9950
+ RS=15.122
+ IKF=999
+ CJO=4.1540E-9
+ M=10
+ VJ=9.9900
.ends
******
.subckt  2214_150224SS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0268E-9
+ N=4.9950
+ RS=2.3257
+ IKF=999
+ CJO=8.2791E-9
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  2214_150224YS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0293E-9
+ N=4.9950
+ RS=.58731
+ IKF=999
+ CJO=6.6815E-9
+ M=.1
+ VJ=9.9900
.ends
******